US08604061B2
In analogy to example 1b (R)-2-amino-4-(4-fluoro-phenyl)-butan-1-ol was reacted with cyanogen bromide to give (R)-4-[2-(4-fluoro-phenyl)-ethyl]-4,5-dihydro-oxazol-2-ylamine. White solid. MS (ISP): 209.3 ([M+H]+))

reactant | (R)-2-amino-4-(4-fluoro-phenyl)-butan-1-ol | N[C@@H](CO)CCC1=CC=C(C=C1)F | C10H14FNO
reactant | cyanogen bromide | N#CBr | CBrN
product | (R)-4-[2-(4-fluoro-phenyl)-ethyl]-4,5-dihydro-oxazol-2-ylamine | FC1=CC=C(C=C1)CC[C@H]1N=C(OC1)N | C11H13FN2O
